US08389508B2
A solution of 5-[5-(2-ethyl-3-formylphenyl)-1,3-thiazol-2-yl]-2-(2-methylpropyl)benzonitrile (D92) (150 mg), ethyl 4-piperidinecarboxylate (63.0 mg) and acetic acid (0.1 mL) in dichloromethane (DCM) (10 mL) was stirred at room temperature for 15 min, then sodium triacetoxyborohydride (255 mg) was added. The mixture was stirred at room temperature for 2 h, then formaldehyde (0.11 mL) was added. The mixture was stirred at room temperature overnight. After concentration, the residue was partitioned between ethyl acetate and water, washed with saturated brine. The organic phase was collected and evaporated, the residue was dissolved in DMF (5 mL) and 2M NaOH (2 mL) solution was added. The mixture was stirred at 50° C. for 1 h, then cooled to room temperature. This reaction mixture was acidified with 2M HCl to pH 5-6, extracted with ethyl acetate for three times. The combined organic phase was concentrated and the residue purified by Mass Directed AutoPrep to afford 1-[(3-{2-[3-cyano-4-(2-methylpropyl)phenyl]-1,3-thiazol-5-yl}-2-ethylphenyl)methyl]-4-piperidinecarboxylic acid (E42) (40 mg) as a TFA salt. δH (DMSO-d6, 400 MHz): 0.92 (6H, d), 1.02 (3H, t), 1.78 (2H, m), 1.98 (2H, m), 2.07 (2H, m), 2.73 (2H, d), 2.83 (2H, m), 3.19 (2H, m), 3.46 (2H, m), 4.41 (2H, m), 7.48 (2H, t), 7.63 (2H, m), 7.96 (1H, s), 8.22 (1H, dd), 8.35 (1H, d), 9.23 (1H, br s), 12.58 (1H, br s). δF (DMSO-d6, 376 MHz): −74.2. MS (ES): C29H33N3O2S requires 487. found 488.3 (M+H+).

reactant | 5-[5-(2-ethyl-3-formylphenyl)-1,3-thiazol-2-yl]-2-(2-methylpropyl)benzonitrile | 150 mg | C(C)C1=C(C=CC=C1C=O)C1=CN=C(S1)C=1C=CC(=C(C#N)C1)CC(C)C | C23H22N2OS
reactant | ethyl 4-piperidinecarboxylate | 63.0 mg | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | sodium triacetoxyborohydride | 255 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | formaldehyde | 0.11 mL | C=O | CH2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
product | 1-[(3-{2-[3-cyano-4-(2-methylpropyl)phenyl]-1,3-thiazol-5-yl}-2-ethylphenyl)methyl]-4-piperidinecarboxylic acid | 40 mg | C(#N)C=1C=C(C=CC1CC(C)C)C=1SC(=CN1)C=1C(=C(C=CC1)CN1CCC(CC1)C(=O)O)CC | C29H33N3O2S
